US08530473B2
3.6 g of 1-benzyl-4-methyl-4-phenyl-[1,4]azasilinane is put in 32 ml of anhydrous dichloromethane under nitrogen. At 0° C., 2.5 ml of 1-chloroethyl chloroformate is added dropwise to the reaction mixture. The reaction mixture is gradually brought back to room temperature and then stirred for 2 h under reflux. After complete conversion, the reaction mixture is concentrated under vacuum and dried, then the residue is dissolved in 50 ml of methanol at room temperature. The mixture is stirred under reflux for 2 h. After evaporation of the solvent under vacuum, the yellow solid obtained is then suspended in ethyl acetate. The suspension is refluxed for some minutes and then gradually cooled to room temperature. The crystals thus formed are filtered, washed with ethyl acetate and dried under vacuum. 2.13 g of 4-methyl-4-phenyl-[1,4]azasilinane hydrochloride is obtained in the form of white crystals.

reactant | 1-benzyl-4-methyl-4-phenyl-[1,4]azasilinane | 3.6 g | C(C1=CC=CC=C1)N1CC[Si](CC1)(C1=CC=CC=C1)C | C18H23NSi
reactant | 1-chloroethyl chloroformate | 2.5 ml | ClC(=O)OC(C)Cl | C3H4Cl2O2
solvent | dichloromethane | 32 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-methyl-4-phenyl-[1,4]azasilinane hydrochloride | 2.13 g | Cl.C[Si]1(CCNCC1)C1=CC=CC=C1 | InChI=1S/C11H17NSi.ClH/c1-13(9-7-12-8-10-13)11-5-3-2-4-6-11;/h2-6,12H,7-10H2,1H3;1H
